US09193719B2
2-Ethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine (1.1 g, 3.2 mmol) and NH4Cl (6.8 g, 128 mmol) were suspended in MeOH (12 mL) and THF (12 mL) at 0° C. The temperature was carefully maintained while Zn (2.1 g, 31.9 mmol) was added portion-wise over 20 min. The mixture was stirred vigorously for 12 h. EtOAc (75 mL) was added and solids were removed by filtration through a pad of diatomaceous earth. The filter cake was washed with EtOAc (2×15 mL) and the combined filtrates were concentrated in vacuo. The residue was slurried with EtOAc (6 mL) and warmed to 77° C. for 5 min. Solids were collected by filtration, slurried with EtOAc (10 mL), and warmed to 77° C. for 5 min. The slurry was immediately filtered to collect solid product. The filtrates were combined and purified by silica gel chromatography (MeOH/EtOAc). Product material was combined and residual solvent was removed in vacuo to afford 6-ethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine (0.48 g, 51%) as an off white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.30 (d, J=5.7 Hz, 1H), 8.22 (s, 1H), 7.93 (s, 1H), 7.17 (d, J=8.7 Hz, 1H), 7.11 (d, J=2.4 Hz, 1H), 6.50 (dd, J=5.7, 2.4 Hz, 1H), 6.35 (d, J=8.7 Hz, 1H), 5.94 (s, 2H), 3.84 (s, 3H), 2.39 (q, J=7.5 Hz, 2H), 1.04 (t, J=7.5 Hz, 3H); MS (ESI) m/z: 296.2 (M+H+).

reactant | 2-Ethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine | 3.2 mmol, 1.1 g | C(C)C1=NC(=CC=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)[N+](=O)[O-] | C16H15N5O3
reactant | NH4Cl | 128 mmol, 6.8 g | [NH4+].[Cl-]
reactant | THF | 12 mL | C1CCOC1 | C4H8O
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 12 mL | CO | CH4O
catalyst | Zn | 31.9 mmol, 2.1 g | [Zn] | Zn
product | 6-ethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine | 0.48 g, 51% | C(C)C1=C(C=CC(=N1)N)OC1=CC(=NC=C1)C=1C=NN(C1)C | C16H17N5O
